US05563141
Methyl 6-[4-[4-(4-pyridyl)piperazin-1-yl]phenoxy]pyridine-3-carboxylate
To a suspension of 4-((4-pyridyl)piperazin-1-yl)phenol (1.13 g) in DMF (10 ml) was added a 60% dispersion of sodium hydride in oil (195 mg) and the resulting mixture was stirred for 20 minutes. A solution of methyl 6-chloronicotinate (758 mg) in DMF (2 ml) was added and the mixture was heated at 60° C. for 2 hours. The mixture was partitioned between ethyl acetate(100 ml) and water(20 ml). The organic layer was dried (MgSO4) and evaporated to give an oil which was purified by flash column chromatography on silica, eluting with methanol/dichloromethane (5:95 v/v) to give the title compound as a solid (815 mg): mp 143°-144° C. ; NMR (d6DMSO) δ3.2-3.35 (4H,m) 3.45-3.55 (4H,m), 3.85 (3H,s), 6.9 (2H,dd), 7.05-7.1 (4H,m), 8.15-8.3 (3H,m), 8.7 (2H,d); m/e 391 (M+H)+ ; calculated for C22H22N4O3.0.25H2O: C,66.9; H,5.7; N,14.2. Found: C,66.9; H,5.7; N,14.1%.

reactant | 4-((4-pyridyl)piperazin-1-yl)phenol | 1.13 g | N1=CC=C(C=C1)C1N(CCNC1)C1=CC=C(C=C1)O | C15H17N3O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 6-chloronicotinate | 758 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Methyl 6-[4-[4-(4-pyridyl)piperazin-1-yl]phenoxy]pyridine-3-carboxylate | 815 mg | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OC2=CC=C(C=N2)C(=O)OC)C=C1 | C22H22N4O3
